US07423059B2
Part IV: Preparation of 2,5-diphenylpyrrolidine, hydrochloride
Trifluoroacetic acid (10 ml) was added to 2,5-diphenylpyrrolidine (1.01 g, 3.13 minol) at 0° C. The mixture was stirred at 0° C. for 10 minutes, then the solvent was evaporated to afford a light brown solid to which was added 100 ml of water. To this solution was added 1N NaOH until pH=14 and the aqueous phase was extracted with chloroform. The organic phase was washed with 1N NaOH, water, brine and dried over MgSO4. After filtration and evaporation to dryness, the light-yellow solid obtained was dissolved in diethyl-ether. To this solution was added IN HCl (5 ml, 5 mmol), the precipitate obtained was collected by filtration, washed with diethyl-ether and dried under vacuum (0.590 g, 72.7%). 1H-NMR (CDCl3): δ ppm 7.30-7.60 (m, ArH, 10H), 4.95 (m, ArCH, 2H), 2.45-2.70 (m, CH2, 4H).

reactant | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,5-diphenylpyrrolidine | 1.01 g | C1(=CC=CC=C1)C1NC(CC1)C1=CC=CC=C1 | C16H17N
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | 5 mmol, 5 ml | Cl | ClH
solvent | diethyl-ether | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 2,5-diphenylpyrrolidine, hydrochloride | Cl.C1(=CC=CC=C1)C1NC(CC1)C1=CC=CC=C1 | InChI=1S/C16H17N.ClH/c1-3-7-13(8-4-1)15-11-12-16(17-15)14-9-5-2-6-10-14;/h1-10,15-17H,11-12H2;1H
